US05750213
First, 5.0 g of 2,3-difluoro-4'-hydroxybiphenyl, 7.3 g of 11-bromo-1-undecanol, 6.7 g of potassium carbonate, and 150 ml of methyl ethyl ketone were placed in a 200 ml flask. The mixture was stirred under reflux for 20 hours. The reaction mixture was poured into water and an organic layer was extracted with toluene. The toluene layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was recrystallized from acetone to obtain 8 g of 2,3-difluoro-4'-(11-hydroxyundecyl)oxybiphenyl (Y: 88%). The compound thus obtained had a purity of 98.8% by GC.

reactant | 2,3-difluoro-4'-hydroxybiphenyl | 5.0 g | FC1=C(C=CC=C1F)C1=CC=C(C=C1)O | C12H8F2O
reactant | 11-bromo-1-undecanol | 7.3 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 150 ml | C(C)C(=O)C | C4H8O
solvent | water | O | H2O
product | 2,3-difluoro-4'-(11-hydroxyundecyl)oxybiphenyl | 8 g, 88% | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCCCCCO | C23H30F2O2
